US03937718
N-Benzyloxycarbonyl-L-phenylalanine phenylester
A mixture of 2.99 g. of N-benzyloxycarbonyl-L-phenylalanine, 2.02 g. of tri-n-butyl phosphine, 2.70 g. of 2,4-dinitrobenzenesulfenic acid phenyl ester, 1.10 g. of 2,2'-dipyridyl disulfide and 70 ml. of methylene chloride is stirred at room temperature for 5 hours. The reaction mixture is treated with the same procedure as in Example 1 (1) to give 3.41 g. of the desired product.

reactant | N-benzyloxycarbonyl-L-phenylalanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | tri-n-butyl phosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2,4-dinitrobenzenesulfenic acid phenyl ester | C1(=CC=CC=C1)OSC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C12H8N2O5S
reactant | 2,2'-dipyridyl disulfide | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-Benzyloxycarbonyl-L-phenylalanine phenylester | C1(=CC=CC=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H21NO4
